* schmitt_trigger
VCC vcc 0 DC 5
VIN vin 0 PWL(0 0 1m 5 2m 0)
R1 vcc vout 100k
R2 vout vplus 100k
R3 vin vminus 10k
XU1 vplus vminus vout vcc 0 OPCMP

.subckt OPCMP 1 2 6 4 5
E1 6 0 1 2 1e6
R1i 1 0 1e9
R2i 2 0 1e9
.ends OPCMP

.control
tran 10us 3ms
.endc
.end
